US06413938B1
C. 5,6-Dichloro-4-fluoro-N-(1-methylethyl)-1H-benzimidazol-2-amine
4,5-Dichloro-3-fluoro-1,2-phenylenediamine (3.37 g, 17.28 mmol), isopropyl isothiocyanate (2.10 g, 20.76 mmol), 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (9.52 g, 22.48 mmol) and pyridine (100 mL) were used according to general procedure I. The title compound was recrystallized from 1,4-dioxane to provide a tan solid (1.40 g, 31%); m.p. 212-215° C.; 1H NMR (DMSO-d6) δ: 11.15 (br s, 1H, NH), 7.21 (s, 1H, Ar—H), 6.99 (d, J=7.8 Hz, 1H, NH), 3.92 (m, 1H, CH), 1.21 (d, J=6.4 Hz, 6H, overlapping CH3).

reactant | 4,5-Dichloro-3-fluoro-1,2-phenylenediamine | 17.28 mmol, 3.37 g | ClC1=C(C(=C(C=C1Cl)N)N)F | C6H5Cl2FN2
reactant | isopropyl isothiocyanate | 20.76 mmol, 2.10 g | C(C)(C)N=C=S | C4H7NS
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 22.48 mmol, 9.52 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
product | 5,6-Dichloro-4-fluoro-N-(1-methylethyl)-1H-benzimidazol-2-amine | 1.40 g, 31% | ClC1=C(C2=C(NC(=N2)NC(C)C)C=C1Cl)F | C10H10Cl2FN3
